US03987160
Anhydrous potassium carbonate (60 g.) was added slowly with stirring to a refluxing mixture of 5-benzyloxysalicylic acid (13 g.; prepared as described by H. Bogeny and R. Krattner, Arch.Pharm; 1960, 293, 393) and anhydrous ethanol (250 ml.). Dimethyl sulphate (36 ml.) was then added, and the mixture stirred under reflux for 24 hours. The solid was filtered off, and the filtrate evaporated in vacuo to give more solid. The combined solids were suspended in water (250 ml.), and sodium hydroxide (20 g.) was added. The mixture was stirred under reflux for 2 hours, and then concentrated hydrochloric acid was added through the condenser, at such a rate that the contents of the flask continued to reflux gently, until pH 1 was attained. After being cooled, the solid which separated was filtered off, and recrystallised from 50% aqueous ethanol, and then from ethanol, to give 5-benzyloxy-2-methoxybenzoic acid (8 g.), m.p. 114°-116° C.

reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-benzyloxysalicylic acid | 13 g | C(C1=CC=CC=C1)OC1=CC=C(C(C(=O)O)=C1)O | C14H12O4
reactant | Dimethyl sulphate | 36 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-benzyloxy-2-methoxybenzoic acid | 8 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)O)C1)OC | C15H14O4
